US04670488
To the same flask as used in Example 1 were added 28.4 g (0.1 mole) of N-(2,2,6,6-tetramethyl-4-piperidinyl)-N-n-butylglycine methyl ester, 17.3 g (0.11 mole) of 2,2,6,6-tetramethyl-4-piperidinol, 0.23 g (0.01 mole) of lithium amide and 100 g of n-octane. The temperature was raised with stirring, and reaction was carried out at 128° to 130° C. for 5 hours, during which methanol was removed from the reaction system by means of the Deanstark trap. After completion of the reaction, water was added to the reaction solution to dissolve the product in the n-octane. The n-octane layer was separated, and n-octane in the layer was removed by distillation to obtain 33.1 g of N-(2,2,6,6-tetramethyl-4-piperidinyl)-N-n-butylglycine(2,2,6,6-tetramethyl-4-piperidinyl)ester as a brown oily product. Yield, 81% based on N-(2,2,6,6-tetramethyl-4-piperidinyl)-N-n-butylglycine methyl ester.

reactant | N-(2,2,6,6-tetramethyl-4-piperidinyl)-N-n-butylglycine methyl ester | 0.1 mole, 28.4 g | COC(CN(CCCC)C1CC(NC(C1)(C)C)(C)C)=O | C16H32N2O2
reactant | 2,2,6,6-tetramethyl-4-piperidinol | 0.11 mole, 17.3 g | CC1(NC(CC(C1)O)(C)C)C | C9H19NO
reactant | lithium amide | 0.01 mole, 0.23 g | [NH2-].[Li+]
reactant | methanol | CO | CH4O
solvent | n-octane | CCCCCCCC | C8H18
solvent | n-octane | 100 g | CCCCCCCC | C8H18
product | N-(2,2,6,6-tetramethyl-4-piperidinyl)-N-n-butylglycine(2,2,6,6-tetramethyl-4-piperidinyl)ester | 33.1 g | CC1(NC(CC(C1)OC(CN(CCCC)C1CC(NC(C1)(C)C)(C)C)=O)(C)C)C | C24H47N3O2
